US07816526B2
Synthesis of 2-ethylthio-6-n-propylimidazo[1,2-b]pyridazin-3-ylsulfonamide
Sodium hydride (60%, 0.73 g, 18.2 mmol) was suspended in DMF (10.0 ml) under ice-cooling, and ethanethiol (1.35 ml, 18.2 mmol) was added dropwise thereto, and the mixture was stirred at 0° C. for 2 hours. 2-Chloro-6-propylimidazo[1,2-b]pyridazin-3-ylsulfonamide (1.00 g, 3.64 mmol) was added thereto and heated at 110° C. for 2.5 hours under stirring. The reaction mixture was left, cooled, diluted with water and acidified by dropwise addition of conc. hydrochloric acid. The precipitated solids were collected by filtration and washed with water, and the solids were suspended in a mixed solvent of chloroform and ethyl acetate, and the insoluble solids were collected by filtration, and the solids were washed with chloroform to give the title compound as gray crystals. The yield was 0.45 g (41.2%).

reactant | Sodium hydride | 18.2 mmol, 0.73 g | [H-].[Na+]
reactant | ethanethiol | 18.2 mmol, 1.35 ml | C(C)S | C2H6S
reactant | 2-Chloro-6-propylimidazo[1,2-b]pyridazin-3-ylsulfonamide | 3.64 mmol, 1.00 g | ClC=1N=C2N(N=C(C=C2)CCC)C1S(=O)(=O)N | C9H11ClN4O2S
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 10.0 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-ethylthio-6-n-propylimidazo[1,2-b]pyridazin-3-ylsulfonamide | C(C)SC=1N=C2N(N=C(C=C2)CCC)C1S(=O)(=O)N | C11H16N4O2S2
